US06511995B1
According to the same manner as that described in Example 1 except for using an equimolar amount of 4-trifluoromethylbenzoic acid in place of 3,4-dichlorobenzoic acid and using an equimolar amount of 1-{4-[(5-amino-2-pyridinyl)oxy]phenyl)-1-propanone obtained in Reference Example 27 in place of 4-[(5-amino-2-pyridinyl)oxy]-1-indanone, the reaction was carried out to obtain the titled compound.

reactant | 4-trifluoromethylbenzoic acid | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | 1-{4-[(5-amino-2-pyridinyl)oxy]phenyl)-1-propanone | NC=1C=CC(=NC1)OC1=CC=C(C=C1)C(CC)=O | C14H14N2O2
product | 4-[(5-amino-2-pyridinyl)oxy]-1-indanone | NC=1C=CC(=NC1)OC1=C2CCC(C2=CC=C1)=O | C14H12N2O2
